US04421686
Penicillin G, potassium salt (349.9 g) was dissolved in 3 liters of water. Sodium periodate (194 g) was added and the mixture was stirred for three hours. Dichloromethane (500 ml) was added and the pH of the water layer was adjusted to 2.3 with 6 N hydrochloric acid with vigorous stirring. The aqueous layer was separated and extracted with four 400 ml portions of dichloromethane. The combined extract was washed with aqueous sodium bisulfite to remove any iodine color, dried over sodium sulfate, filtered, and evaporated. The solid residue was empasted with 400 ml of ethyl acetate and allowed to stand at 0° C. overnight. The solid was isolated by filtration and dried in vacuo to afford 322 g of penicillin G sulfoxide.

reactant | Penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | potassium | 349.9 g | [K] | K
reactant | Sodium periodate | 194 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 3 liters | O | H2O
solvent | Dichloromethane | 500 ml | ClCCl | CH2Cl2
product | penicillin G sulfoxide | 322 g | CC1([C@@H](N2[C@H](S1=O)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)O)C | C16H18N2O5S
